US06528525B1
3-[3-chloro-4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]-2-phenoxypropionic acid (exemplification No. 139-24 compound)
In a similar manner to that described in Example 2, ethyl 3-[3-chloro-4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]-2-phenoxypropionate (540 mg), which is the product of Example 161, was reacted with aqueous sodium hydroxide solution (1N, 1.98 ml) and the reaction mixture was treated to give the title compound (404 mg) as colorless crystals.

reactant | ethyl 3-[3-chloro-4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]-2-phenoxypropionate | 540 mg | ClC=1C=C(C=CC1OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O)CC(C(=O)OCC)OC1=CC=CC=C1 | C31H29ClN2O5
reactant | sodium hydroxide | 1N, 1.98 ml | [OH-].[Na+]
product | 3-[3-chloro-4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]-2-phenoxypropionic acid | 404 mg | ClC=1C=C(C=CC1OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O)CC(C(=O)O)OC1=CC=CC=C1 | C29H25ClN2O5
